US08633173B2
205 a) 1-(3-nitro-phenyl)-piperazin-2-one was prepared from piperazin-2-one (1.00 g, 9.99 mmol) and 1-iodo-3-nitro-benzene (3.00 g, 12.0 mmol) in a manner analogous to Example 204a. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.21 (s, 1H), 8.13 (d, J=8.2 Hz, 1H), 7.74 (d, J=7.8 Hz, 1H), 7.58 (t, J=8.0 Hz, 1H), 3.77 (t, J=4.9 Hz, 2H), 3.74 (s, 2H), 3.28 (t, J=4.8 Hz, 2H). MS=222 (MH)+.

reactant | piperazin-2-one | 9.99 mmol, 1.00 g | N1C(CNCC1)=O | C4H8N2O
reactant | 1-iodo-3-nitro-benzene | 12.0 mmol, 3.00 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
product | 1-(3-nitro-phenyl)-piperazin-2-one | [N+](=O)([O-])C=1C=C(C=CC1)N1C(CNCC1)=O | C10H11N3O3
